US04704459
In 10 ml of conc. hydrochloric acid was suspended 500 mg of ethyl 7-chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate, and the resulting suspension was subjected to reaction under reflux for 1 hour. The reaction mixture was diluted with 10 ml of water, and the crystals thus deposited were collected by filtration, and then washed with 2 ml of water to obtain 450 mg (yield 97.1%) of 7-chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid having a melting point of 238°-242° C.

reactant | ethyl 7-chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 500 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C17H10ClF3N2O3
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 7-chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 450 mg, yield 97.1% | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C15H6ClF3N2O3
